US04729782
Synthesis of Methyl 2,6-difluoro-benzoylacetate
To 3.6 g (25 mmole, 1 eq) of Meldrum's acid and 6.1 g of 4-dimethylamino-pyridine in 60 ml of methylenechloride was added with stirring, 4.4 g (25 mmole) of 2,6-difluorobenzoylchloride. The temperature was maintained at 0° throughout the addition period and for three additional hours of stirring under argon atmosphere. Most of the methylene chloride was then removed by distillation at 25° or less using a water aspirator to maintain reduced pressure. There was then added 60 ml of anhydrous methanol containing 25 mmole of conc. sulfuric acid.

reactant | Meldrum's acid | 25 mmole, 3.6 g, 1 eq | CC1(OC(=O)CC(=O)O1)C | C6H8O4
reactant | 2,6-difluorobenzoylchloride | 25 mmole, 4.4 g | FC1=C(C(=O)Cl)C(=CC=C1)F | C7H3ClF2O
reactant | methanol | 25 mmole, 60 ml | CO | CH4O
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
catalyst | 4-dimethylamino-pyridine | 6.1 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | methylenechloride | 60 ml | C(Cl)Cl | CH2Cl2
product | Methyl 2,6-difluoro-benzoylacetate | FC1=C(C(=O)CC(=O)OC)C(=CC=C1)F | C10H8F2O3
